US06727261B2
To a solution of 0.40 g of (6S)-3-Butyl-3-hydroxy-6-tert-butyldimethoxy-siloxymethyl-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-pyrido[2,1-a]isoquinolin-2-one in 13 ml of THF at 0° C. was slowly added a solution of 1.78 ml of tetrabutylammonium fluoride (1M in THF). The reaction mixture was stirred for 2 hours keeping the temperature between 0-5° C. The reaction mixture was poured into ice cooled water (49 ml) and then extracted two times with 30 ml of ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was then purified by chromatography (silica gel, hexane/ethyl acetate 0-70%) to give 0.30 g of (6S)-3-Butyl-6-hydroxymethyl-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-pyrido[2,1-a]isoquinolin-2-one, MS (ISP) 348.3 (M+H)+.

reactant | (6S)-3-Butyl-3-hydroxy-6-tert-butyldimethoxy-siloxymethyl-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-pyrido[2,1-a]isoquinolin-2-one | 0.40 g | C(CCC)C1(C(C(C2N([C@@H](CC3=C(C(=C(C(=C23)OC)OC)OC)OC)C(C)(C)C)C1)CO[SiH3])=O)O | C26H43NO7Si
reactant | tetrabutylammonium fluoride | 1M, 1.78 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | 49 ml | O | H2O
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | (6S)-3-Butyl-6-hydroxymethyl-9,10-dimethoxy-1,3,4,6,7,11b-hexahydro-pyrido[2,1-a]isoquinolin-2-one | 0.30 g | C(CCC)C1C(CC2N([C@@H](CC3=CC(=C(C=C23)OC)OC)CO)C1)=O | C20H29NO4
